US09359350B2
(1) Synthesis of 1-(4-bromo-2-fluorophenyl)propan-1-ol [140-1] (hereinafter referred to as a compound [140-1])
To a solution of 4-Bromo-2-fluorobenzaldehyde (5.1 g) in tetrahydrofuran (50 mL) was added 1M tetrahydrofuran solution of ethylmagnesium bromide (41 mL) at 0° C., and then the reaction mixture was stirred at room temperature for 1 hour. To the reaction mixture was added a saturated aqueous solution of ammonium chloride under ice-cooling, and the reaction mixture was extracted with ethyl acetate. The obtained organic layer was dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the titled compound (3.78 g) as a colorless liquid.

reactant | 4-Bromo-2-fluorobenzaldehyde | 5.1 g | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | ethylmagnesium bromide | 41 mL | C(C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M | O1CCCC1 | C4H8O
product | 1-(4-bromo-2-fluorophenyl)propan-1-ol | 3.78 g | BrC1=CC(=C(C=C1)C(CC)O)F | C9H10BrFO
